US06521643B1
A suspension of 3-(3-trifluoromethylpyridin-2-yl)nitrobenzene (500 mg) in ethanol (10 ml) was hydrogenated over palladium on carbon (10% w/w, 50% wet, 167 mg) under a hydrogen atmosphere for 2 hours. The catalyst was filtered off, and the filtrate was evaporated under reduced pressure to give 3-(3-trifluoromethylpyridin-2-yl)aniline (425 mg).

reactant | 3-(3-trifluoromethylpyridin-2-yl)nitrobenzene | 500 mg | FC(C=1C(=NC=CC1)C=1C=C(C=CC1)[N+](=O)[O-])(F)F | C12H7F3N2O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 167 mg | [Pd] | Pd
product | 3-(3-trifluoromethylpyridin-2-yl)aniline | 425 mg | FC(C=1C(=NC=CC1)C=1C=C(N)C=CC1)(F)F | C12H9F3N2
